US06313311B1
b) 2-(1H-Imidazol-4-yl)-4-phenylbutan-2-ol
3.3 g of 2-(3-benzyl-3H-imidazol-4-yl)-4-phenylbutan-2-ol is dissolved in 100 ml of ethanol. The reaction solution is hydrogenated at 50° C. with 10% palladium on carbon as catalyst for 4.5 hours. Work-up of the reaction mixture gives the crude product, which is recrystallized from ethyl acetate. The yield is 2.0 g.

reactant | 2-(3-benzyl-3H-imidazol-4-yl)-4-phenylbutan-2-ol | 3.3 g | C(C1=CC=CC=C1)N1C=NC=C1C(C)(CCC1=CC=CC=C1)O | C20H22N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(1H-Imidazol-4-yl)-4-phenylbutan-2-ol | N1C=NC(=C1)C(C)(CCC1=CC=CC=C1)O | C13H16N2O
